US07316999B2
Nα-tert-Butyloxycarbonyl-Nε-isopropyl lysine (SennChem) was reacted with trimethylsilyldiazomethan in ethanol. The resulting methyl ester amine was reacted with 2-(pinacolborono)benzyl bromide in ether and TEA to give Nα-tert-butyloxycarbonyl, Nε-isopropyl, Nε-(2-pinacolboronobenzyl) methyl lysinate:

reactant | Nα-tert-Butyloxycarbonyl-Nε-isopropyl lysine | C(C)(C)(C)OC(=O)N[C@@H](CCCCNC(C)C)C(=O)O | C14H28N2O4
reactant | trimethylsilyldiazomethan | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | methyl lysinate | N[C@@H](CCCCN)C(=O)OC | C7H16N2O2
